US07238720B2
b) 3-(2-Methylimidazo[1,2-a]pyridin-3-yl)thio-1H-1,2,4-triazole
To a mixture of 3-mercapto-1H-1,2,4-triazole (1.15 g) and N,N-dimethylformamide (15 ml) was added 60% sodium hydride (450 mg). After foaming was completed, N-chlorosuccinimide in small portions was added to the mixture on an ice bath, and stirred at this temperature for 15 minutes. 2-methylimidazo[1,2-a]pyridine (1.0 g) was then added, and the reaction mixture was heated and stirred at room temperature for 1 hour, and then for 3 hours on an oil bath at 70° C. The reaction solution was concentrated under reduced pressure. The residue was washed twice with diethyl ether, and methanol was added to the residue to remove undissolved materials. The filtrate was concentrated, and then crystals precipitated by the addition of water were collected by filtration, washed with water, followed by diethyl ether, and dried to yield the title compound (480 mg).

reactant | 3-mercapto-1H-1,2,4-triazole | 1.15 g | SC1=NNC=N1 | C2H3N3S
reactant | sodium hydride | 450 mg | [H-].[Na+]
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 2-methylimidazo[1,2-a]pyridine | 1.0 g | CC=1N=C2N(C=CC=C2)C1 | C8H8N2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-(2-Methylimidazo[1,2-a]pyridin-3-yl)thio-1H-1,2,4-triazole | 480 mg | CC=1N=C2N(C=CC=C2)C1SC1=NNC=N1 | C10H9N5S
